US09193723B2
5-(1-benzyl-1H-pyrazol-4-yl)-N-(imidazo[1,2-a]pyridin-7-ylmethyl)furan-2-carboxamide
The title compound was prepared as described in Example 51A, substituting 1-benzyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole for 1-isobutyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole and 5-bromo-N-(imidazo[1,2-a]pyridin-7-ylmethyl)furan-2-carboxamide for 4-bromoaniline. 1H NMR (400 MHz, DMSO-d6) ppm 8.92 (t, J=6.1 Hz, 1H), 8.49 (dd, J=6.9, 0.9 Hz, 1H), 8.27 (d, J=0.7 Hz, 1H), 7.93 (d, J=0.7 Hz, 1H), 7.89 (t, J=0.9 Hz, 1H), 7.52 (d, J=1.2 Hz, 1H), 7.41-7.23 (m, 6H), 7.17 (d, J=3.5 Hz, 1H), 6.85 (dd, J=7.0, 1.7 Hz, 1H), 6.68 (d, J=3.5 Hz, 1H), 5.39 (s, 2H), 4.49 (d, J=6.1 Hz, 2H); MS (ESI(+)) m/e 398 (M+H)+.

reactant | 1-isobutyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | C(C(C)C)N1N=CC(=C1)B1OC(C(O1)(C)C)(C)C | C13H23BN2O2
reactant | 5-bromo-N-(imidazo[1,2-a]pyridin-7-ylmethyl)furan-2-carboxamide | BrC1=CC=C(O1)C(=O)NCC1=CC=2N(C=C1)C=CN2 | C13H10BrN3O2
reactant | 4-bromoaniline | BrC1=CC=C(N)C=C1 | C6H6BrN
product | 5-(1-benzyl-1H-pyrazol-4-yl)-N-(imidazo[1,2-a]pyridin-7-ylmethyl)furan-2-carboxamide | C(C1=CC=CC=C1)N1N=CC(=C1)C1=CC=C(O1)C(=O)NCC1=CC=2N(C=C1)C=CN2 | C23H19N5O2
